US08975267B2
4-[4-(methoxycarbonyl)-1H-pyrrol-3-yl]butanoic acid
Methyl 4-(4-methoxy-4-oxobutyl)-1H-pyrrole-3-carboxylate (50 mg, 0.220 mmol) was suspended in anhydrous dioxane (2 mL) and H2O (0.5 mL) and LiOH (5.3 mg, 0.220 mmol) was added. The reaction mixture was stirred at room temperature for 4 h. Reaction solution was acidified with 1N HCl and AcOEt (50 mL) and H2O (20 mL) were added. Aqueous layer was extracted with AcOEt and the combined organic layers anidrified on Na2SO4, filtered and concentrated to give 46 mg (quantitative yield) of the title compound as a white solid.

reactant | Methyl 4-(4-methoxy-4-oxobutyl)-1H-pyrrole-3-carboxylate | 0.220 mmol, 50 mg | COC(CCCC=1C(=CNC1)C(=O)OC)=O | C11H15NO4
reactant | LiOH | 0.220 mmol, 5.3 mg | [Li+].[OH-]
reactant | HCl | 1N | Cl | ClH
solvent | dioxane | 2 mL | O1CCOCC1 | C4H8O2
solvent | H2O | 20 mL | O | H2O
solvent | AcOEt | 50 mL | CCOC(=O)C | C4H8O2
solvent | H2O | 0.5 mL | O | H2O
product | 4-[4-(methoxycarbonyl)-1H-pyrrol-3-yl]butanoic acid | 46 mg, quantitative yield | COC(=O)C=1C(=CNC1)CCCC(=O)O | C10H13NO4
